US07683187B2
The reaction was performed in a 100 L autoclave. 63 L toluene, 4.5 kg triphenylphosphine (17 mol) and 187.5 g palladium(II)chloride (1.05 mol) was added into the autoclave and closed. The autoclave was first flushed three times with N2, then two times with CO and finally the autoclave was set under 10 bar CO pressure and heated to 80° C. over night. Then 7 L degassed water, containing 477 g tin(II) chloride dihydrate and 10 kg 4-hydroxy-1-nonene (0.5 mol) was pumped into the reactor at a 4 bar CO pressure. The temperature was maintained at 80° C. and the CO pressure was increased to 20 bar. The progress of the reaction was monitored by taking GC samples. After 11.5 h the conversion of 4-hydroxy-1-nonene was 91% and the ratio between delta-lactone to gamma-lactone ca. 6:1. The crude product was distilled in vacuo on a packed column with >40 theroretical stages to yield the delta-decalactone (more than 99.3% pure).

reactant | triphenylphosphine | 17 mol, 4.5 kg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tin(II) chloride dihydrate | 477 g | O.O.[Sn](Cl)Cl
reactant | 4-hydroxy-1-nonene | 0.5 mol, 10 kg | OC(CC=C)CCCCC | C9H18O
catalyst | palladium(II)chloride | 1.05 mol, 187.5 g | [Pd](Cl)Cl
solvent | toluene | 63 L | C1(=CC=CC=C1)C | C7H8
product | delta-decalactone | more than 99.3% | CCCCCC1CCCC(=O)O1 | C10H18O2
